Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Tetanus / Ibuprofen
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: Laparoscopic adjustable gastric band placement.

 
History of Present Illness:
___ has class III morbid obesity with weight of 269.5 pounds 
as of ___.  Her initial screen weight on ___ was 265.1 
pounds.  Her height is 62 inches and her BMI is 49.3.  Her 
previous weight loss efforts have included Weight Watchers x 2 
in the late ___ and early ___, ___ 3 between ___ 
and ___, 6 months of Slim-Fast in the late 1980s, hypnosis x 1 
in ___ without results and she did prescription weight loss 
medications including Redux in the 1990s in 6 months losing less 
than 10 pounds and sibutramine (Meridia) around ___ for one 
months losing less than 10 pounds.  Both of these prescription 
medications have been taken off the market by FDA 
recommendations.  She has not taken over-the-counter 
ephedra-containing appetite suppressants or herbal supplements. 
She weighed 120 pounds at age ___ with her lowest adult 106 
pounds and her highest weight being her current weight of 269.5 
pounds. She stated she has been struggling with weight since the 
age of ___ and cites as factors contributing to her excess weight 
smoking cessation, depression over weight and health issues, 
genetics, too many carbohydrates and saturated fats, stress and 
lack of exercise.  She recently had knee injury but she now is 
able to walk for long periods of time slowly increasing exercise 
and she does have a gym membership and equipment at home that 
she is planning on using.  She denied history of eating 
disorders and does not have a diagnosis of depression except for 
situation no around her weight.  She has not seen a therapist 
nor has she been hospitalized for mental health issues and she 
is not currently on any psychotropic medications.

 
Past Medical History:
Past Medical History:
1.  Asthma.
2.  Thoracic outlet syndrome.
3.  Gastroesophageal reflux (manometry demonstrated normal
    motility with exception of incomplete lower esophageal
    sphincter relaxation).
4.  H. pylori positivity status post treatment.
5.  History of ulcerative colitis.
6.  Hiatal hernia based on endoscopy.
7.  Polycystic ovary disease.
8.  Carpal tunnel.
9.  Migraine headaches, now resolved.
10.  Mild stress urinary incontinence.
11.  Iron deficiency anemia.
12.  Fatty liver.
13.  Obstructive sleep apnea, recommended CPAP.

Past Surgical History:
1.  Left oophorectomy, ___.
2.  Tubal ligation ___.
3.  Cesarean section, ___ and ___.
4.  Left carpal tunnel release ___

 
Social History:
___
Family History:
Family history is noted for father deceased age ___ of lung CA, 
heart disease, asthma, hyperlipidemia and obesity; mother living 
age ___ with diabetes, asthma, arthritis and obesity; grandmother 
deceased age ___ of stroke; aunt deceased age ___ of colon CA; 
brother living age ___ overweight; son with ulcerative colitis.
 
Physical Exam:
Vital signs: T 97.2, HR 58, BP 100/58, RR 18, O2 95% RA

Constitutional: NAD
Neuro: Alert and oriented x3
Cardiac: RRR, NL S1,S2, No MRG
Lungs: CTA B
Abdomen: Obese, soft, appropriate ___ tenderness, no 
rebound tenderness/ guarding
Wounds: Abd lap sites CDI
 
Brief Hospital Course:
The patient presented to pre-op on ___. Pt was 
evaluated by anaesthesia and taken to the operating room for 
laparoscopic adjustable gastric band placement; no hiatal hernia 
was identified. There were no adverse events in the operating 
room; please see the operative note for details. Pt was 
extubated, taken to the PACU until stable, then transferred to 
the ward for observation. 

Neuro: The patient was alert and oriented throughout her 
hospitalization; pain was controlled with oral Roxicet 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: She was initially on bariatric stage 1 diet, which 
was advanced sequentially to stage 3, and well tolerated. 
Patient's intake and output were closely monitored. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay; she was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a stage 3 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan

 
Medications on Admission:
Balsalazide 750 mg BID
Rowasa 4 gram/ 60 mL kit q HS
Furosemide 20 mg QD prn swelling
Lansoprazole 30 mg QD
MVI w/ minerals QD
CaCO3 500 BID
Vitamin D3 2,000 QD
Roxicet ___ mL q HS back pain
ES Tylenol 1,000 mg prn headache
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg/5 mL Solution Sig: ___ MLs 
___ Q4H (every 4 hours) as needed for Pain.
Disp:*250 ML(s)* Refills:*0*
2. docusate sodium 50 mg/5 mL Liquid Sig: Ten (10) ml ___ twice a 
day as needed for Consitpation.
Disp:*300 ml* Refills:*0*
3. lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
4. multivitamin,tx-minerals     Tablet Sig: One (1) Tablet ___ 
___.  
5. balsalazide 750 mg Capsule Sig: Three (3) Capsule ___ twice a 
day.  
6. furosemide 10 mg/mL Solution Sig: One (1) ml ___ once a day as 
needed for swelling.  
7. Rowasa 4 gram/60 mL Kit Sig: One (1) Kit Rectal at bedtime as 
needed for Flare.  
8. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable ___ once a day.  
9. Vitamin D-3 2,000 unit Tablet Sig: One (1) Tablet ___ once a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Obstructive sleep apnea.
2. Morbid obesity.
3. Gastroesophageal reflux.
4. Stress urinary incontinence.
5. Fatty liver.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance
diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications except:
1.  Decrease furosemide 10 mg ___ please notify prescribing 
provider of this change, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You should take a stool softener, Colace, twice ___ for 
constipation as needed, or until you resume a normal bowel 
pattern.
4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate exercise at your discretion, no abdominal 
exercises.

Wound Care:
You may shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites. 

 
Followup Instructions:
___